US06660744B1
A mixture of 1-cyclopentyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.36 g, 0.0011 mol), 5-phenoxy-1,3-dihydro-2,1-benzoxaborol-1-ol (0.30 g, 0.0013 mol), tetrakis (triphenylphophine)palladium (0.077 g, 0.000067 mol) and sodium carbonate monohydrate (0.34 g, 0.0028 mol) in ethylene glycol dimethyl ether (7 mL) and water (5 mL) was heated at 80° C. under an atmosphere of nitrogen for seventeen hours. The mixture was allowed to cool to ambient temperature, and the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate (20 mL) and aqueous saturated solution of sodium carbonate (20 mL). The aqueous layer was further extracted with ethyl acetate (3×20 mL). The organic solvent was removed under reduced pressure. Ethyl acetate (15 mL) was added to the residue and white precipitate was formed. The solid was filtered and washed with acetone (2×15 mL) and dichloromethane (1×15 mL) to yield [2-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-5-phenoxyphenyl]methanol (0.267 g, 0.00067 mol):

reactant | 1-cyclopentyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0011 mol, 0.36 g | C1(CCCC1)N1N=C(C=2C1=NC=NC2N)I | C10H12IN5
reactant | 5-phenoxy-1,3-dihydro-2,1-benzoxaborol-1-ol | 0.0013 mol, 0.30 g | O(C1=CC=CC=C1)C=1C=CC2=C(COB2O)C1 | C13H11BO3
reactant | sodium carbonate monohydrate | 0.0028 mol, 0.34 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 7 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
product | [2-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-5-phenoxyphenyl]methanol | 0.00067 mol, 0.267 g | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)CO)C2CCCC2 | C23H23N5O2
